US05639732
Dihydrogen (3S)-[3-[(N-t-Butoxycarbonyl-L-leucyl)amino]-2-oxo-4-phenylbutyl] phosphate:
A suspension of 30 mg of 20% Pd(OH)2 in a solution of dibenzyl (3S)-[3-[(N-t-Butoxycarbonyl-L-leucyl)amino]-2-oxo-4-phenylbutyl] phosphate (30 mg, 0.046 mmol) in 1.0 mL of ethyl acetate was stirred under H2 (1 atm) at room temperature for 4 hours. The catalyst was filtered through Celite™ and the filtrate was concentrated to give the crude product. Flash chromatography (10% MeOH in CH2Cl2) gave 8 mg of pure product. MS: 471 m/z (M-1).

reactant | dibenzyl (3S)-[3-[(N-t-Butoxycarbonyl-L-leucyl)amino]-2-oxo-4-phenylbutyl] phosphate | 0.046 mmol, 30 mg | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)=O | C35H45N2O8P
reactant | MeOH | CO | CH4O
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OH)2 | 30 mg | [OH-].[OH-].[Pd+2]
product | Dihydrogen (3S)-[3-[(N-t-Butoxycarbonyl-L-leucyl)amino]-2-oxo-4-phenylbutyl] phosphate | 8 mg | P(=O)(O)(O)OCC([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)=O | C21H33N2O8P
